Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Tylenol
 
Attending: ___
 
Chief Complaint:
Left hemibody weakness, numbness and difficulty speaking.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo ambidextrous (but writes with R) woman 
with
history of anxiety, depression, migraine who presents with L
hemibody weakness, numbness and difficulty speaking.

She was feeling well this morning. She went to work as a
___.  Late morning, between 11:00 and noon, she noticed
that her balance felt slightly off, then she knows that the more
she spoke more slurred her words sounded, and she had increasing
difficulty speaking.  She also noticed that she was dragging her
left more than her right foot when she was walking.  The 
symptoms
progressed over minutes to hours, before plateauing.  Symptoms
have not changed since that time.

No other associated symptoms.  Has been feeling well recently. 
No recent infectious symptoms.  She is never had anything like
this happen before.
 

 
Past Medical History:
Migraine
anxiety
depression
OCD
ODD
former morbid obesity (~400lb)
h/o HTN (resolved after weight loss)
 
Social History:
___
Family History:
Father with lung CA
PGM with MI and stroke
MGF with thyroid CA
MGM with breast CA
 
Physical Exam:
Admission exam:
Vitals:  T: 98.7 HR: ___ BP: ___ RR: ___ SaO2: 
100%
RA
General: Awake, cooperative, tearful throughout code stroke,
intermittently tearful during detailed history/exam afterward. 
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history with some difficulty. Attentive to exam. Speech is 
fluent
with normal grammar and syntax. No paraphasic errors. With 
naming
on stroke card, she is able to name hand, key, and chair. Calls
feather a quill. Calls hammock a tree swing. Calls cactus a 
spiny
plant. Repetition intact. Comprehension intact to complex,
cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 4->2. VFF to confrontation. EOMI with ___
beats bilateral end-gaze nystagmus. Decreased sensation to LT 
and
PP (70% of normal) L face that decreased approx. 2-3 cm left of
midline on forehead. Subtle decreased movement left face. 
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii on R, ___ on L. Tongue protrudes in
midline and moves briskly to each side, tongue in cheek slightly
decreased on left. Speech is halting, stuttering, but not 
clearly
dysarthric. 

- Motor:  Normal bulk and tone. L downward drift without
pronation nor cupping. Orbits around L.  No tremor nor 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4+*  5*  4+* 4*  4* 5* 4* 4+* 4*   4+*4*    2*           
R  5    5   4+* 5   5* 5* ___    5  5                 
*giveaway weakness, bursts of strength only, maximal strength
burst documented. 

Of note, L IP barely lifts above bed, but resists with bursts of
4+ strength without falling down to bed. 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    2   2                     -  
 R  3  2    3    2   2                     -     
Plantar response was flexor bilaterally.

-Sensory: LT decreased throughout L hemibody. PP is not sharp at
all LUE, 70% of normal sharpness LLE. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred
===========================================
Discharge Exam:

General: Awake, cooperative, tearful throughout code stroke,
intermittently tearful during detailed history/exam afterward. 
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neuro:
Mental status: Awake, alert, oriented to person, place and time. 
Attention to examiner easily maintained. Recalls a coherent 
history. Speech is fluent with full sentences. There are no 
paraphasic errors. Cooperative with exam with normal affect. 

CN: The pupils react normally to light directly. Extraocular 
movements are intact. Facial movements are normal and symmetric. 
Speech is not dysarthric. Shoulder shrug is normal and 
symmetric. The tongue protrudes in the midline. 

Motor: Normal Bulk and Tone. Stuttering left drift without 
pronation 
[Delt][Tri][ECR][FEx] [IP][Quad][Ham][TA] [___] 
 [C5]  [C7] [C6] [C8] [L2] [L3]  [L5] [L4]  [S1] [L5] 
L 5      5   5     5    5   5      5   5      5    5
R 5      5   5     5    5   5      5   5      5    5

Sensory:  
sensation intact to LT throughout 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  3  2    3    2   2                     -  
 R  3  2    3    2   2                     -     
Plantar response was flexor bilaterally.
 
Gait and Stance: Able to ambulate independently 

 
Pertinent Results:
___ 05:16PM URINE  HOURS-RANDOM
___ 05:16PM URINE  UCG-NEGATIVE
___ 05:16PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG
___ 05:16PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 05:16PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 05:16PM URINE  RBC-14* WBC-10* BACTERIA-MOD* YEAST-NONE 
EPI-1
___ 05:16PM URINE  MUCOUS-FEW*
___ 04:21PM   GLUCOSE-91 NA+-138 K+-3.6 CL--104 TCO2-24
___ 04:15PM   CREAT-0.7
___ 04:15PM   UREA N-11
___ 04:15PM   estGFR-Using this
___ 04:15PM   ALT(SGPT)-33 AST(SGOT)-29 ALK PHOS-73 TOT 
BILI-2.1*
___ 04:15PM   cTropnT-<0.01
___ 04:15PM   ALBUMIN-4.6
___ 04:15PM   ALBUMIN-4.6
___ 04:15PM   WBC-7.5 RBC-4.25 HGB-12.3 HCT-37.6 MCV-89 
MCH-28.9 MCHC-32.7 RDW-13.2 RDWSD-42.6
___ 04:15PM   WBC-7.5 RBC-4.25 HGB-12.3 HCT-37.6 MCV-89 
MCH-28.9 MCHC-32.7 RDW-13.2 RDWSD-42.6
___ 04:15PM   NEUTS-57.5 ___ MONOS-9.8 EOS-0.7* 
BASOS-0.5 IM ___ AbsNeut-4.29 AbsLymp-2.33 AbsMono-0.73 
AbsEos-0.05 AbsBaso-0.04
___ 04:15PM   PLT COUNT-251
___ 04:15PM   PLT COUNT-251

CTH IMPRESSION: 
 
No intracranial hemorrhage or acute territorial infarct.
 

MRI/MRA brain and neck
IMPRESSION:  
  
1.  There is no evidence of acute intracranial process or 
hemorrhage. 
  
2.  Essentially normal MRA of the head and neck, no flow 
stenotic lesions or 
aneurysms are seen. 
  

 
Brief Hospital Course:
This patient is a ___ year old ambidextrous (writes with right 
hand) woman with a history of anxiety, depression, and migraine 
who presents with left hemibody weakness, numbness and 
difficulty speaking for several hours, which completely 
resolved. Head CT scan shows no intracranial hemorrhage or acute 
territorial infarct. The subsequent MRI and MRA showed no stroke 
and patent vessels. Her stroke risk labs were as follows : A1c 
4.9 LDL 98. Although the etiology of her symptoms remains 
unclear, TIA/stroke was thought to be less likely given her age, 
lack of stroke risk factors and description of event. She was 
further seen by ___ who cleared her for discharge home. She 
was discharged home under a stable condition with recommended 
outpatient follow up with her PCP.

  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed (x) No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (x) No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.) low concern for stroke/TIA
4. LDL documented? (x) Yes (LDL =98 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given: no prior stroke and no current stroke 
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - (x) No No stroke 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - (x) No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 150 mg PO BID 
2. BusPIRone 15 mg PO TID 
3. Topiramate (Topamax) 600 mg PO DAILY migraine 
4. Tizanidine 4 mg PO TID:PRN back pain 
5. LORazepam 1 mg PO TID:PRN anxiety 
6. Ferrous Sulfate 650 mg PO DAILY 
7. Sumatriptan Succinate 50 mg PO ONCE:PRN migraine 
8. OxyCODONE (Immediate Release) 5 mg PO TID:PRN Pain - Moderate 

9. Ferrous Sulfate 650 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion 150 mg PO BID  
2.  BusPIRone 15 mg PO TID  
3.  Ferrous Sulfate 650 mg PO DAILY  
4.  LORazepam 1 mg PO TID:PRN anxiety  
5.  OxyCODONE (Immediate Release) 5 mg PO TID:PRN Pain - 
Moderate  
6.  Sumatriptan Succinate 50 mg PO ONCE:PRN migraine  
7.  Tizanidine 4 mg PO TID:PRN back pain  
8.  Topiramate (Topamax) 600 mg PO DAILY migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient hesitant speech and left-sided weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for symptoms of difficulty with speech and 
left-sided weakness which completely resolved the following day. 
You underwent imaging of your brain which did not show any 
stroke on preliminary results. The etiology of your symptoms is 
unclear at this time. However, we do not think that they 
represented a transient ischemic attack/stroke but rather might 
be related to recent stressful events in your life that 
precipitated. There will be no changes in your medications. 
Please take your medications as prescribed and follow up with 
your PCP.

Sincerely,

The ___ Neurology Team
 
Followup Instructions:
___